US04166131
69 g of α-ethyl-α-methyl-dihydrocinnamic acid are added dropwise at 150°, within 5 minutes, to 700 g of polyphosphoric acid, while stirring. The reaction mixture is stirred at 160° for a further 10 minutes, is cooled to 100° and 100 cc of water are added dropwise. The reaction mixture is then poured on ice, extracted with ether, the ether extract is washed with water and dried over sodium sulphate. The 2-ethyl-2-methyl-1-indanone, obtained after evaporating the solvent, is purified by distillation. B.P. 137°-140° at 20 mm of Hg.

reactant | α-ethyl-α-methyl-dihydrocinnamic acid | 69 g | C(C)C(C(=O)O)(CC1=CC=CC=C1)C | C12H16O2
solvent | water | 100 cc | O | H2O
product | 2-ethyl-2-methyl-1-indanone | C(C)C1(C(C2=CC=CC=C2C1)=O)C | C12H14O
